US04994452
1,3,9,10,11,12-Hexahydro-3-methyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one
To a solution of the methyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]propionate hydrate (3.7 g) in dry tetrahydrofuran (65 ml) was added potassium t-butoxide (1.62 g). The reaction mixture was stirred at room temperature for one hr, saturated ammonium chloride solution (18.2 ml) was added, and stirring was continued for one hr. The mixture was concentrated. The solution was cooled, the solid was collected, washed with water, and dried to yield 2.90 g (90%) of product, mp 200° C. (dec).

reactant | methyl α-[(9-amino-1,2,3,4-tetrahydroacridin-8-yl)oxy]propionate hydrate | 3.7 g | O.NC=1C2=C(C=CC=C2N=C2CCCCC12)OC(C(=O)OC)C
reactant | potassium t-butoxide | 1.62 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 18.2 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 1,3,9,10,11,12-Hexahydro-3-methyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 2.90 g, 90% | CC1OC2=C3C(NC1=O)=C1CCCCC1=NC3=CC=C2 | C16H16N2O2
